US05405870
3-(5-Benzyloxypentyl)-7,7-ethylenedioxy-cis-bicyclo-[3,3,0]oct-2-ene
Ethylene glycol (0.05 ml) and 10 mg of p-toluenesulfonic acid were added to a solution of 209 mg of 3-(5-benzyloxypentyl)-7,7-ethylenedioxy-3-hydroxy-cis-bicyclo[3,3,0]octane (prepared as described in Preparation 9) in 2 ml of benzene, and the mixture was heated, with stirring, for 3.5 hours, whilst removing water as an azeotropic mixture. Upon completion of the reaction, the reaction mixture was neutralized with a 5% w/v aqueous solution of sodium bicarbonate. The reaction mixture was then washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off from the reaction mixture under reduced pressure, giving 193 mg of a residue. This residue was purified by silica gel column chromatography and 142 mg of the title compound were obtained as an oil from the fractions eluted with hexane containing 2-5% by volume of ethyl acetate. The product had the same properties as that of Preparation 4.

reactant | Ethylene glycol | 0.05 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-(5-benzyloxypentyl)-7,7-ethylenedioxy-3-hydroxy-cis-bicyclo[3,3,0]octane | 209 mg | C(C1=CC=CC=C1)OCCCCCC1(C[C@@H]2CC3(C[C@@H]2C1)OCCO3)O | C22H32O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-Benzyloxypentyl)-7,7-ethylenedioxy-cis-bicyclo-[3,3,0]oct-2-ene | 193 mg | C(C1=CC=CC=C1)OCCCCCC1=C[C@@H]2CC3(C[C@@H]2C1)OCCO3 | C22H30O3
